US08372842B2
TFA (0.5 mL) was added to a solution of tert-butyl 4-(1-(4-methoxybenzyl)-5-(trifluoromethyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.114 g, 0.232 mmol) in DCM (2 mL) and stirred at room temperature for 1 hour. The reaction was then concentrated to dryness. The resulting residue was dissolved in TFA (1.79 mL, 23.2 mmol) and heated at 65° C. for 2 hours. The reaction was again concentrated to dryness. The resulting residue was dissolved in DCM (0.5 mL), and HCl in ether (2 mL, 2N) was added. The resulting solid was collected by filtration to give 4-(piperazin-1-yl)-5-(trifluoromethyl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride (0.075 g, 94%). MS APCI (+) m/z 272.0 detected.

reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(1-(4-methoxybenzyl)-5-(trifluoromethyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.232 mmol, 0.114 g | COC1=CC=C(CN2N=CC=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C(F)(F)F)C=C1 | C24H28F3N5O3
reactant | TFA | 23.2 mmol, 1.79 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(piperazin-1-yl)-5-(trifluoromethyl)-1H-pyrazolo[3,4-b]pyridine dihydrochloride | 0.075 g, 94% | Cl.Cl.N1(CCNCC1)C1=C2C(=NC=C1C(F)(F)F)NN=C2 | InChI=1S/C11H12F3N5.2ClH/c12-11(13,14)8-6-16-10-7(5-17-18-10)9(8)19-3-1-15-2-4-19;;/h5-6,15H,1-4H2,(H,16,17,18);2*1H
